US04629797
Methyl 2-(4-bromo-3-oxobutanamido)acetate
4.8 ml Diketene are dissolved in 30 ml methylene chloride. The solution is cooled to -50° C. and a solution of 3.24 ml bromine dissolved in 20 ml methylene chloride is added dropwise over 30 min. The mixture is left stirring for 2 h at ambient temperature. At -40° is added, all at once, an intimate mixture of 20 g finely ground Na2CO3 and 7.9 g glycine methyl ester hydrochloride. Stirring is continued for 90 min, allowing the mixture to return to ambient temperature. The salt is filtered quickly, the filtrate is concentrated in vacuo at ambient temperature. The residual oil is purified by chromatography on silica, eluting with ethyl acetate. The desired compound is obtained as a white powder, m.p. 76°-77° C.

reactant | Diketene | 4.8 ml | C=C1CC(=O)O1 | C4H4O2
reactant | bromine | 3.24 ml | BrBr | Br2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | glycine methyl ester hydrochloride | 7.9 g | Cl.COC(CN)=O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-(4-bromo-3-oxobutanamido)acetate | BrCC(CC(=O)NCC(=O)OC)=O | C7H10BrNO4
